US08431572B2
Preparation of 2-(4-methylpiperazin-1-yl)ethyl {3-[1-(5,6-difluoro-2-oxo-benzoxazol-3-yl)ethyl]phenyl}carbamate
250 mg (0.86 mmol) of 3-[1-(3-aminophenyl)ethyl]-5,6-difluoro-3H-benzoxazol-2-one, 137 mg (0.95 mmol) of 2-(4-methylpiperazin-1-yl)ethanol and 200 μl (1.81 mmol) of N-methylmorpholine are suspended in 10 ml of dichloromethane, the mixture is stirred at room temperature for 10 min, and 128 mg (0.43 mmol) of bis(trichloromethyl) carbonate are added. The reaction mixture is stirred at room temperature for 16 h. The mixture is subsequently diluted with 30 ml of dichloromethane, washed with 2×20 ml of saturated sodium hydrogencarbonate solution, dried over sodium sulfate and evaporated to dryness. The crude product is purified by column chromatography on silica gel, dissolved in acetone, warmed with HCl in ether and, when crystallisation is complete, filtered off with suction and dried. Product (“A27”): 95 mg, product is in the form of the hydrochloride;

reactant | 3-[1-(3-aminophenyl)ethyl]-5,6-difluoro-3H-benzoxazol-2-one | 0.86 mmol, 250 mg | NC=1C=C(C=CC1)C(C)N1C(OC2=C1C=C(C(=C2)F)F)=O | C15H12F2N2O2
reactant | 2-(4-methylpiperazin-1-yl)ethanol | 0.95 mmol, 137 mg | CN1CCN(CC1)CCO | C7H16N2O
reactant | N-methylmorpholine | 1.81 mmol, 200 μl | CN1CCOCC1 | C5H11NO
reactant | bis(trichloromethyl) carbonate | 0.43 mmol, 128 mg | C(OC(Cl)(Cl)Cl)(OC(Cl)(Cl)Cl)=O | C3Cl6O3
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 2-(4-methylpiperazin-1-yl)ethyl {3-[1-(5,6-difluoro-2-oxo-benzoxazol-3-yl)ethyl]phenyl}carbamate | FC=1C(=CC2=C(N(C(O2)=O)C(C)C=2C=C(C=CC2)NC(OCCN2CCN(CC2)C)=O)C1)F | C23H26F2N4O4
